US05194617
A solution of 502 mg (3.63 mmols) of potassium carbonate in 2 ml of water was added to a solution of 1.23 g (3.63 mmols) of 2 (trans-1-hydroxy-2-nonenyl)-3-methyl-4-acetoxyquinoline, 15 ml of water and 80 ml of methanol and stirred at room temperature for 10 minutes. After neutralization by addition of 1N hydrochloric acid, the solvent was distilled off under reduced pressure and 30 ml of chloroform was added to the resultant residue, followed by washing with water and drying with sodium sulfate. The solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (Wako Gel C-200) (solvent: n-hexane : ethyl acetate=1:2) to obtain 746 mg (yield 69%) of 2-(trans-1-hydroxy-2-nonenyl)-3-methyl-4-quinolone.

reactant | potassium carbonate | 3.63 mmols, 502 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (trans-1-hydroxy-2-nonenyl)-3-methyl-4-acetoxyquinoline | OC(\C=C\CCCCCC)C1=NC2=CC=CC=C2C(=C1C)OC(C)=O | C21H27NO3
reactant | methanol | 80 ml | CO | CH4O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 2 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 2-(trans-1-hydroxy-2-nonenyl)-3-methyl-4-quinolone | 746 mg, yield 69% | OC(\C=C\CCCCCC)C1=NC2=CC=CC=C2C(C1C)=O | C19H25NO2
